US06420567B1
A. 2-Cyano-4,6-dimethylaniline
To a solution of 2,4-dimethylaniline (9.80 g, 80.9 mmol) in dichloromethane (200 mL) at 0° C. was added N-bromosuccinimide (15.1 g, 84.9 mmol) slowly. The mixture was allowed to warmed to room temperature and stirred at room temperature overnight before it was washed with 1 N NaOH. The organic layer was worked up and concentrated as usual. The residue was dissolved in N,N-dimethylformamide (120 mL) followed by the addition of cuprous cyanide (14.5 g, 161.8 mmol). The mixture was heated under reflux for 8 h and then allowed to cool to rt and poured into water (1 L). The mixture was treated with excess ethylenediamine and the precipitate was filtered, redissolved in ethyl acetate, dried with MgSO4 and then concentrated to give the desired compound as an oil (6.7 g, 55%).

reactant | 2,4-dimethylaniline | 80.9 mmol, 9.80 g | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | N-bromosuccinimide | 84.9 mmol, 15.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 1 L | O | H2O
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-Cyano-4,6-dimethylaniline | 6.7 g, 55% | C(#N)C1=C(N)C(=CC(=C1)C)C | C9H10N2
